US05734081
N,N'-[Dithiobis(2,1-phenylenecarbonyl)bis-L-arginine
This compound was prepared according to the general method of Example 122 using N,N'-[Dithiobis (2,1-phenylenecarbonyl)bis-L-arginine-bis(1,1-dimethylethyl) ester, (1.31 g, 2.0 mmol) from Example 127 in 15 mL of dichloromethane and 15 mL of trifluoroacetic acid. The residue was triturated with ethanol and 1N HCl to yield 0.74 g of the title compound, mp 208°-211° C.;

reactant | Dithiobis (2,1-phenylenecarbonyl)bis-L-arginine-bis(1,1-dimethylethyl) ester | 2.0 mmol, 1.31 g | CC(C)(C)OC([C@@H](NC(=O)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OC(C)(C)C)CCCNC(N)=N)=O | C34H50N8O6S2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Dithiobis(2,1-phenylenecarbonyl)bis-L-arginine | 0.74 g | C1(=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C26H34N8O6S2
